US07323475B2
A mixture of 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (810 mg, 2.5 mmol, Example D-28 a) and aniline (3 ml) was stirred in a pressure tube in a microwave oven at 150° C. for 20 min. The reaction was repeated on the same scale. Both reaction mixtures were combined, EtOAc (100 ml) was added and the mixture was washed with H2O (5×30 ml, pH=1-2). The organic phase was dried and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using hexanes/EtOAc as the eluent to give 770 mg of 4-hydroxy-1-phenylamino-isoquinoline-3-carboxylic acid butyl ester; MS-(+)-ion: M+1=337.21.

reactant | 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Br | C14H14BrNO3
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 4-hydroxy-1-phenylamino-isoquinoline-3-carboxylic acid butyl ester | 770 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)NC1=CC=CC=C1 | C20H20N2O3
